US05665718
7 g (19.3 mmol) of (S)-8-bromo-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxamidoxime were stirred with 3.8 g (22.2 mmol) of chloroacetic anhydride in 50 ml of N,N-dimethylformamide at room temperature for 1 hour and at 105° for 2 hours. After evaporating the reaction mixture the residue was dissolved in methylene chloride and the solution was washed with saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfate and concentrated. After recrystallizing the residue from methanol there were obtained 5.3 g (65%) of (S)-8-bromo-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 210°-211°.

reactant | (S)-8-bromo-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]-benzodiazepine-1-carboxamidoxime | 19.3 mmol, 7 g | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CC1)=O | C14H12BrN5O2
reactant | chloroacetic anhydride | 22.2 mmol, 3.8 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (S)-8-bromo-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 5.3 g, 65% | BrC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11BrClN5O2
